US08541407B2
Step 2. Synthesis of 6-(methylthio)-11H-benzo[e]pyrido[3,2-b][1,4]diazepine
To a solution of 5H-benzo[e]pyrido[3,2-b][1,4]diazepine-6(11H)-thione (0.106 g, 0.465 mmol) in dichloromethane (5 ml) was added trimethyloxonium tetrafluoroborate (0.076 g, 0.512 mmol). The reaction mixture was stirred at room temperature for 15 minutes and then warmed to 40° C. for 2 hours. The reaction was quenched by adding water (10 ml). The organic layer was separated, dried with sodium sulfate and concentrated to afford the desired product, 6-(methylthio)-11H-benzo[e]pyrido[3,2-b][1,4]diazepine as a dark yellow solid which turned to oil on standing (0.092 g, 82%). The crude product was used in the next step without any further purification. 400 MHz 1H NMR (CDCl3) δ: 7.9-7.85 (m, 1H), 7.60-7.54 (m, 1H), 7.44-7.38 (m, 1H), 7.3-7.22 (m, 1H), 6.98-6.90 (m, 2H), 6.78-6.72 (m, 1H), 6.29 (br s, 1H), 2.53 (s, 3H); LCMS [M+H]: 242.

reactant | 5H-benzo[e]pyrido[3,2-b][1,4]diazepine-6(11H)-thione | 0.465 mmol, 0.106 g | N1=CC=CC=2NC(C3=C(NC21)C=CC=C3)=S | C12H9N3S
reactant | trimethyloxonium tetrafluoroborate | 0.512 mmol, 0.076 g | F[B-](F)(F)F.C[O+](C)C
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 6-(methylthio)-11H-benzo[e]pyrido[3,2-b][1,4]diazepine | CSC=1C2=C(NC3=C(N1)C=CC=N3)C=CC=C2 | C13H11N3S
